US07652022B2
Stage 85.2: 1-(2-Methoxy-4-nitro-phenyl)-piperidine
2-Bromo-5-nitroanisole (5.0 g, 21.5 mmol) and piperidine (8.5 ml) is stirred for 5 h at 105° C. under N2-atmosphere. Water (80 ml) is added and the mixture is extracted twice with CH2Cl2 (2×80 ml). The organic phases are washed with water and brine, dried (Na2SO4) and concentrated. The crude product is dissolved in AcOEt, SiO2 is then added and the solvent evaporate off In vacuo. The resulting powder is put on top of a chromatography column (SiO2; AcOEt/hexane 9:1) and the title compound eluted with hexane/AcOEt 9:1→4:1: MS: [M+1]+=237; Rf=0.2 (AcOEt/hexane 9:1).

reactant | 2-Bromo-5-nitroanisole | 21.5 mmol, 5.0 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | piperidine | 8.5 ml | N1CCCCC1 | C5H11N
solvent | Water | 80 ml | O | H2O
product | 1-(2-Methoxy-4-nitro-phenyl)-piperidine | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCCCC1 | C12H16N2O3
